US06982348B2
1) ethyl 3-isopropyloxybenzoate
To a solution of ethyl 3-hydroxybenzoate (15.2 g, 0.10 mol) in N,N-dimethylformamide (100 ml) were added isopropyl bromide (12.1 ml, 0.13 mol) and sodium iodide (19.5 g, 0.13 mol), and the mixture was stirred at 70° C. for 15 hrs. To the reaction solution was added water (500 ml), and the mixture was extracted with ethyl acetate (500,200 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1) to give the objective substance (12.4 g, 64%) as an oil.

reactant | ethyl 3-hydroxybenzoate | 0.10 mol, 15.2 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | isopropyl bromide | 0.13 mol, 12.1 ml | C(C)(C)Br | C3H7Br
reactant | sodium iodide | 0.13 mol, 19.5 g | [I-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 3-isopropyloxybenzoate | C(C)(C)OC=1C=C(C(=O)OCC)C=CC1 | C12H16O3
